US09334264B2
N-(3-(1H-imidazol-1-yl)propyl)-2-bromothiazole-5-carboxamide
2-Bromothiazole-5-carboxylic acid (0.4 g, 1.923 mmol), 3-(1H-imidazole-1-yl)propan-1-amine (0.265 g, 2.115 mmol), and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (BOP) (0.935 g, 2.115 mmol) were mixed in dichloromethane (7 ml), treated with Hunig's base (0.705 ml, 4.04 mmol) and stirred at 25° C. for 2 hours. The reaction mixture was diluted with dichloromethane and washed with water and brine. The organic layer was dried (MgSO4), filtered and concentrated. Purification by flash chromatography (silica gel, 2-20% methanol/dichloromethane) afforded the title compound.

reactant | 2-Bromothiazole-5-carboxylic acid | 1.923 mmol, 0.4 g | BrC=1SC(=CN1)C(=O)O | C4H2BrNO2S
reactant | 3-(1H-imidazole-1-yl)propan-1-amine | 2.115 mmol, 0.265 g | N1(C=NC=C1)CCCN | C6H11N3
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 2.115 mmol, 0.935 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Hunig's base | 4.04 mmol, 0.705 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | N-(3-(1H-imidazol-1-yl)propyl)-2-bromothiazole-5-carboxamide | N1(C=NC=C1)CCCNC(=O)C1=CN=C(S1)Br | C10H11BrN4OS
